US07592358B2
24.1d. 1-[2-(4-iodo-2-ethylphenoxy)ethyl]pyrrolidine
A finely triturated mixture of 0.8 g of silica gel (0.2-0.5 mm) and 0.41 g (1.00 mmol) of iron (II) nitrate nonahydrate was added to a solution of 0.44 g (2.01 mmol) of 1-[2-(2-ethylphenoxy)ethyl]pyrrolidine and 0.28 g (1.10 mmol) of iodine in 5 mL of DCM and the mixture was stirred for 12 hours at RT. The reaction mixture was filtered and the filtrate was evaporated down in vacuo. The residue was purified by column chromatography (silica gel, DCM/MeOH/sat. aqueous ammonia 9:1:0.1). Yield: 0.286 g (41% of theoretical); C14H20INO (M=345.219); calc.: molpeak (M+H)+: 346; found: molpeak (M+H)+: 346; HPLC-MS: 6.74 minutes (method A).

reactant | 1-[2-(2-ethylphenoxy)ethyl]pyrrolidine | 2.01 mmol, 0.44 g | C(C)C1=C(OCCN2CCCC2)C=CC=C1 | C14H21NO
reactant | iodine | 1.10 mmol, 0.28 g | II | I2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | iron (II) nitrate nonahydrate | 1.00 mmol, 0.41 g | O.O.O.O.O.O.O.O.O.[N+](=O)([O-])[O-].[Fe+2].[N+](=O)([O-])[O-]
product | 1-[2-(4-iodo-2-ethylphenoxy)ethyl]pyrrolidine | IC1=CC(=C(OCCN2CCCC2)C=C1)CC | C14H20INO
